US05162320
A solution of 1,4-bis[N-(3-dimethylaminopropyl) amino]-2,3-diaza-anthracene (0.76 g) in pyridine (0.6 ml) and acetic anhydride (94 ml) is left at room temperature for 15 hours. After distillation of the solvent at reduced pressure the residue is dissolved in ethyl acetate (20 ml) and the organic solution is washed with 5% sodium bicarbonate (2×15 ml) and with brine (5 ml). Drying over sodium sulphate and removal of the solvent at reduced pressure gives 0.57 g of 1-[N-(3-dimethylaminopropyl)-N-(acetyl)amino]-4-[N-(3-dimethylaminopropyl)amino]-2,3-diaza-anthracene.

reactant | 1,4-bis[N-(3-dimethylaminopropyl) amino]-2,3-diaza-anthracene | 0.76 g | CN(CCCNC1=NN=C(C2=CC3=CC=CC=C3C=C12)NCCCN(C)C)C | C22H32N6
reactant | acetic anhydride | 94 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.6 ml | N1=CC=CC=C1 | C5H5N
product | 1-[N-(3-dimethylaminopropyl)-N-(acetyl)amino]-4-[N-(3-dimethylaminopropyl)amino]-2,3-diaza-anthracene | 0.57 g | CN(CCCN(C(C)=O)C1=NN=C(C2=CC3=CC=CC=C3C=C12)NCCCN(C)C)C | C24H34N6O
